US07144899B2
Step B: 1-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)phenyl]methanamine
To a solution of 2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzonitrile (166 mg, 0.69 mmol) in saturated ethanolic ammonia (12 mL) was added Raney nickel (50% slurry in water; the water was decanted and the catalyst rinsed with EtOH three times before use). The mixture was quickly degassed and purged with Ar, and was then placed under H2 atmosphere (balloon) and stirred for 16 h. The mixture was then filtered through Celite and the filter cake was rinsed thoroughly with EtOH. The filtrate was concentrated to a brown oil. Silica gel chromatography (70% EtOAc-hexanes then 5% MeOH-CHCl3) afforded the title compound as an orange-brown solid. 1H NMR (400 MHz, CDCl3): δ 9.41 (s, 1H), 7.93 (br s, 1H), 7.76 (d, J=8.0 Hz, 1H), 7.62 (d, J=8.0 Hz, 1H), 3.81 (s, 2H), 1.57 (br s, 2H). LCMS (M+H): 243.9.

reactant | 2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzonitrile | 0.69 mmol, 166 mg | N1(N=NN=C1)C1=C(C#N)C=C(C=C1)C(F)(F)F | C9H4F3N5
solvent | ammonia | 12 mL | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 1-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)phenyl]methanamine | N1(N=NN=C1)C1=C(C=C(C=C1)C(F)(F)F)CN | C9H8F3N5
